US05459138
EXAMPLE 68: 3-ETHYL-4-METHYL-2,3-DIHYDRO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE
A solution of 0.5 g of 4-methylaminopyridine-3- sulfonamide (Preparation 12) and 0.9 cm3 of propionaldehyde in 5 cm3 of isopropanol, to which 3 drops of a saturated solution of hydrochloric acid in ethyl acetate have been added, is heated for 3 hours at 50° C. The solvent is then removed under partial vacuum and the residue obtained is recrystallized several times from a chloroform/petroleum ether (1/3) mixture.

reactant | 4-methylaminopyridine-3- sulfonamide | 0.5 g | CNC1=C(C=NC=C1)S(=O)(=O)N | C6H9N3O2S
reactant | propionaldehyde | 0.9 cm3 | C(CC)=O | C3H6O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropanol | 5 cm3 | C(C)(C)O | C3H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-ETHYL-4-METHYL-2,3-DIHYDRO-4H-PYRIDO[4,3-e][1,2,4]THIADIAZINE 1,1-DIOXIDE | C(C)C1NS(C2=C(N1C)C=CN=C2)(=O)=O | C9H13N3O2S
